US07705004B2
To a solution of 2-ethylaniline (12.1 g, 0.1 mol) in conc. H2SO4 (50 mL) at 0° C. was added fuming HNO3 (9.3 g) drop wise. After stirring at ambient temperature for 30 min, the mixture was poured into ice-water, and 2 N NaOH was added to neutralize the excess acid. The resulting reddish-brown solid was collected by filtration and washed with petroleum ether to give 2-ethyl-5-nitroaniline as crude product (9 g).

reactant | 2-ethylaniline | 0.1 mol, 12.1 g | C(C)C1=C(N)C=CC=C1 | C8H11N
reactant | HNO3 | 9.3 g | [N+](=O)(O)[O-] | HNO3
reactant | NaOH | 2 N | [OH-].[Na+]
solvent | H2SO4 | 50 mL | OS(=O)(=O)O | H2O4S
product | 2-ethyl-5-nitroaniline | C(C)C1=C(N)C=C(C=C1)[N+](=O)[O-] | C8H10N2O2
